US07795282B2
Step E: Preparation of 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine:
To a solution of tert-butyl 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate (0.180 g, 0.226 mmol) in 4 mL of DCM at 0° C. was added TFA (1 mL). The mixture was stirred for 1 hour at 0° C. for 3 hours then concentrated in vacuo. The residue was partitioned between EtOAc (20 mL) and saturated NaHCO3 solution (20 mL) and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organic phases were washed with brine (10 mL), dried over Na2SO4 and concentrated in vacuo to afford the desired product as a yellow gum, 0.157 g, 100%.

reactant | tert-butyl 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-6,7-dihydrothiazolo[5,4-c]pyridine-5(4H)-carboxylate | 0.226 mmol, 0.180 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1C=1SC=2CN(CCC2N1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C43H46F2N4O3S2Si
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(2-(tert-butyldiphenylsilyloxy)ethyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1(SC(=NN1C=1SC=2CNCCC2N1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C38H38F2N4OS2Si
